US06762180B1
(105) 3-Z-[1-(4-(N-((2-dimethylamino-ethyl)-carbonyl)-N-isopropyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and N-((2-dimethylamino-ethyl)-carbonyl)-N-isopropyl-p-phenylenediamine Rf value: 0.1 (silica gel, methylene chloride/methanol=10:1) C31H34N4O4

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | N-((2-dimethylamino-ethyl)-carbonyl)-N-isopropyl-p-phenylenediamine | CN(CCC(=O)N(C1=CC=C(C=C1)N)C(C)C)C | C14H23N3O
product | 3-Z-[1-(4-(N-((2-dimethylamino-ethyl)-carbonyl)-N-isopropyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | CN(CCC(=O)N(C(C)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1)C | C31H34N4O4
